US07037929B1
2-benzyloxycarbonylamino-5-formyl-1,3-thiazole
1 g (7.8 mmol) of 2-amino-5-formyl-1,3-thiazole was dissolved in 25 ml of tetrahydrofuran and 1.35 ml (9.36mmol) of triethylamine and 1.33 ml (9.36 mmol) of benzylchloroformate were added at 0° C. under stirring. After 8 hours at room temperature the solvent was evaporated, the residue redissolved with methylene chloride and washed with saturated tartaric acid and then with water. The solvent was dried over anhydrous sodium sulfate and evaporated. The residue was purified by chromatography on silica gel using cyclohexane-ethylacetate as eluent to give 1.3 g (65% yield) of the title compound.

reactant | 2-amino-5-formyl-1,3-thiazole | 7.8 mmol, 1 g | NC=1SC(=CN1)C=O | C4H4N2OS
reactant | triethylamine | 9.36mmol, 1.35 ml | C(C)N(CC)CC | C6H15N
reactant | benzylchloroformate | 9.36 mmol, 1.33 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-benzyloxycarbonylamino-5-formyl-1,3-thiazole | 1.3 g, 65% yield | C(C1=CC=CC=C1)OC(=O)NC=1SC(=CN1)C=O | C12H10N2O3S
